US05362747
(2S)-2-amino-6-(2-nitro-5-methylphenylamino)hexanoic acid
A mixture of 2.37 g (10 mmol) of Nα -BOC-L-lysine and 1.65 g (11.0 mmol) of 3-fluoro-4-nitrotoluene in 10 mL of 1N NaOH and 10 mL of ethanol were heated at reflux for 48 hours, then cooled to room temperature. A precipitate was filtered off and discarded. Removal of the solvent/n vacuo gave an oil which was dissolved in 50 % ethanol/3M NH3 and taken to dryness. The residue was dissolved in 12 mL of 4N HCl in 33% acetic acid and stirred for four hours, then concentrated to dryness and purified by flash chromatography (eluting with 12:1:1 acetonitrile/water/HOAc). The resulting oil was recrystallized from water/methanol to afford 470 mg (42% yield) of the title product as bright orange prisms.: mp 234°-235° (dec.); MS M/Z (DCl/NH3): 282 [M+H]+ ; 1H NMR (300 MHz, D2O) δ: 1.1-1.45 (m, 6H), 2.78 (t, J=6.6 Hz, 2H), 2.99 (t, J=6.0 Hz, 1H), 5.88 (d, J=7.8 Hz, 1H), 6.07 (s, 1H), 7.32 (d, J=7.8 Hz, 1H). 13C NMR (75.5 MHz, D2O) δ: 185.73, 151.31,148.37, 131.02, 119.60, 116.09, 58.83, 45.20, 37.87, 31.19, 25.86; Analysis calc'd for C13H19N3O4 : C, 55.51;H, 6.81;N, 14.94; found: C, 55.25;H, 6.94; N, 14.75.

reactant | Nα -BOC-L-lysine | 10 mmol, 2.37 g | C(=O)(OC(C)(C)C)N[C@@H](CCCCN)C(=O)O | C11H22N2O4
reactant | 3-fluoro-4-nitrotoluene | 11.0 mmol, 1.65 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 3M | C(C)O | C2H6O
solvent | HCl | 4N, 12 mL | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (2S)-2-amino-6-(2-nitro-5-methylphenylamino)hexanoic acid | 470 mg, 42% yield | N[C@H](C(=O)O)CCCCNC1=C(C=CC(=C1)C)[N+](=O)[O-] | C13H19N3O4
